US07030267B2
To a solution of cyano-cyclopentylidene-acetic acid methyl ester (20.8 g, 126 mmol) in acetonitrile (500 mL) was added nitromethane (34 mL, 630 mmol, 5 eq) followed by dropwise addition of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (18.8 mL, 126 mmol). The reaction solution turned orange upon the addition of DBU. The reaction mixture was stirred at room temperature for 16 hours. Another portion of DBU (1 mL) was added and stirred for 1 hour. The reaction mixture was partitioned between ether (1 L) and 1N HCl (400 mL) and the layers separated. The organic layer was washed with 1N HCl (2×300 mL), brine (2×200 mL), dried over sodium sulfate, filtered and evaporated. The residue was chromatographed on a wet-packed silica gel column eluting with 4–6% ethyl acetate/hexanes. The appropriate fractions were combined and evaporated to furnish 14.0 g (62%) of 1-cyano-spiro[2.4]heptane-1-carboxylic acid methyl ester as a clear oil: 1H NMR (300 MHz, CDCl3) δ 1.64 (d, J=5.0 Hz, 1H), 1.70–1.88 (m, 7H), 2.14 (d, J=5.0 Hz, 1H), 2.1–2.19 (m, 1H), 3.82 (s, 3H); MS (APCI) m/z 180 [M+H]+.

reactant | cyano-cyclopentylidene-acetic acid methyl ester | 126 mmol, 20.8 g | COC(C(=C1CCCC1)C#N)=O | C9H11NO2
reactant | nitromethane | 630 mmol, 34 mL, 5 eq | [N+](=O)([O-])C | CH3NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 126 mmol, 18.8 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | DBU | 1 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 1-cyano-spiro[2.4]heptane-1-carboxylic acid methyl ester | 14.0 g, 62% | COC(=O)C1(CC12CCCC2)C#N | C10H13NO2
